US07935815B2
Synthesis of (Z)-2-fluoro-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-[2-oxo-3-(2,4,6-trifluorophenyl)piperidin-1-yl]acrylamide
BOPCl (221 mg) was added to a suspension of (Z)-2-fluoro-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (CAS No. 870838-71-4, 240 mg), 1-amino-3-(2,4,6-trifluorophenyl)piperidin-2-one (106 g) and IPEA (0.45 mL) in DMF (5 mL), and the reaction solution was stirred at room temperature for 16 hours. Saturated sodium bicarbonate water and ethyl acetate were added to the reaction mixture and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate) to obtain 110 mg of the title compound. The property value of the compound is as follows.

reactant | BOPCl | 221 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | (Z)-2-fluoro-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | F\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C14H13FN2O3
reactant | 1-amino-3-(2,4,6-trifluorophenyl)piperidin-2-one | 106 g | NN1C(C(CCC1)C1=C(C=C(C=C1F)F)F)=O | C11H11F3N2O
reactant | IPEA | 0.45 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-2-fluoro-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-[2-oxo-3-(2,4,6-trifluorophenyl)piperidin-1-yl]acrylamide | 110 mg | F\C(\C(=O)NN1C(C(CCC1)C1=C(C=C(C=C1F)F)F)=O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C25H22F4N4O3
